US04904653
N-(2-hydroxy-2-phenylethyl) 4-bromo-thiophene-3-ethylamine was prepared from 4-bromothiophene-3-ethylamine and styrene oxide by the method described in Example 1(b) and recrystallised from cyclohexane (m.p. 75°).

reactant | 4-bromothiophene-3-ethylamine | BrC=1C(=CSC1)CCN | C6H8BrNS
reactant | styrene oxide | C1C(C2=CC=CC=C2)O1 | C8H8O
product | N-(2-hydroxy-2-phenylethyl) 4-bromo-thiophene-3-ethylamine | OC(CNCCC1=CSC=C1Br)C1=CC=CC=C1 | C14H16BrNOS
